US06153768
Synthesis of (3RS,4RS)-4-[3-(4-chlorobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran
(3RS,4RS)-4-(3-Hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran (260 mg, 0.59 mmol), 1-bromo-4-chlorobutane (0.8 ml, 2.98 mmol) and aqueous 2N-NaOH solution (0.8 ml) were dissolved in acetone (10 ml) and then stirred for 4 hours at 50° C. The reaction mixture was cooled to room temperature and then water was added thereto. The reaction solution was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to remove the organic solvent. The concentrate was separated by column chromatography (n-hexane:ethyl acetate=4:1) to obtain 300 mg (yield: 96%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-4-(3-Hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 0.59 mmol, 260 mg | OC=1C=C(C=CC1)C1C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC | C26H28O6
reactant | 1-bromo-4-chlorobutane | 2.98 mmol, 0.8 ml | BrCCCCCl | C4H8BrCl
reactant | NaOH | 0.8 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | (3RS,4RS)-4-[3-(4-chlorobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 300 mg, yield: 96% | ClCCCCOC=1C=C(C=CC1)C1C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC | C30H35ClO6
